US08802864B2
c) 4-[2-chloro-4-(1H-indol-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
A mixture of 4-(4-bromo-2-chlorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (140 mg, 0.329 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (80 mg, 0.329 mmol), potassium carbonate (182 mg, 1.315 mmol), and tetrakis(triphenylphosphine)palladium(0) (19.0 mg, 0.016 mmol) in 1,4-dioxane (5 mL) and water (2 mL) was heated at 120° C. for 3.5 hr. The reaction mixture was cooled and loaded onto a silica gel pre-column and purified by flash chromatography (dichloromethane to 6% methanol in dichloromethane) to afford the title product (73 mg, 0.158 mmol, 48% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.96-8.78 (m, 1H), 8.37 (br. s, 1H), 7.92-7.82 (m, 2H), 7.76-7.64 (m, 1H), 7.56-7.47 (m, 1H), 7.47-7.39 (m, 2H), 7.36-7.30 (m, 1H), 6.76-6.61 (m, 1H), 4.04-3.02 (m, 4H), 2.80-2.39 (m, 3H), 2.34-2.03 (m, 1H), 1.84-1.60 (m, 1H), 1.07-0.94 (m, 2H), 0.76 (dd, J=3.3, 7.8 Hz, 2H).

reactant | 4-(4-bromo-2-chlorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.329 mmol, 140 mg | BrC1=CC(=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)Cl | C17H18BrClN4O2
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 0.329 mmol, 80 mg | CC1(OB(OC1(C)C)C=1C=C2C=CNC2=CC1)C | C14H18BNO2
reactant | potassium carbonate | 1.315 mmol, 182 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.016 mmol, 19.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[2-chloro-4-(1H-indol-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.158 mmol, 73 mg, 48% yield | ClC1=C(C=CC(=C1)C=1C=C2C=CNC2=CC1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O | C25H24ClN5O2
